US09290490B2
A solution of ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)carbonyl]cyclohexanecarboxylate (500 mg, 1.444 mmol) in THF (6 mL) was cooled to −60° C. Ethylmagnesium bromide (3.0 M in THF, 481 μl, 1.444 mmol) was added dropwise and the resulting mixture was stirred for 1 hour. The mixture was diluted with water and EtOAc and the layers were separated. The organic layer was washed with saturated sodium bicarbonate, brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (5-80% EtOAc/Hexanes) to afford racemic-trans-ethyl 4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxylate as a yellow solid. The racemic mixture was purified by super critical fluid chromatography (Chiral Technology AD-H 2.1×25 cm, 5 uM, 30%/70% Methanol/CO2 with a 14 minute run time) to afford enantiomer 1 and enantiomer 2 as clear oils. Enantiomer 1 (retention time=7.24 min): MS ESI calc'd. for C12H22BrNO3S [M+H]+ 376, 378. found 376, 378. 1H NMR (500 MHz, DMSO-d6) δ 7.75 (s, 1H), 5.62 (s, 1H), 3.99 (q, J=7.0, 2H), 2.20-0.80 (m, 15H), 0.68 (t, J=6.9, 3H). Enantiomer 2 (retention time=10.18 min): MS ESI calcd for C17H26BrNO3S [M+H]+ 376, 378. found 376, 378. 1H NMR (500 MHz, DMSO-d6) δ 7.75 (s, 1H), 5.62 (s, 1H), 3.99 (q, J=7.0, 2H), 2.20-0.8 (m, 15H), 0.68 (t, J=6.9, 3H).

reactant | ethyl trans-4-[(5-bromo-1,3-thiazol-2-yl)carbonyl]cyclohexanecarboxylate | 1.444 mmol, 500 mg | BrC1=CN=C(S1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H16BrNO3S
reactant | Ethylmagnesium bromide | 1.444 mmol, 3.0 M, 481 μl | C(C)[Mg]Br
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | racemic-trans-ethyl 4-[1-(5-bromo-1,3-thiazol-2-yl)-1-hydroxypropyl]cyclohexanecarboxylate | BrC1=CN=C(S1)C(CC)(O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C15H22BrNO3S
